US04751310
a. 2-(4-Methoxyphenyl)-6,7-dihydro-[5H]-pyrrolo [1,2-a]imidazole (Formula (E) Compound).
To a solution of 6.8 g (29.7 mmoles) of 2-bromo-4-methoxyacetophenone in 50 ml of CHCl3 was added a solution of 5 g (59.4 mmoles) of 2-iminopyrrolidine in 30 ml of CHCl3 with chilling. After 4 hours of stirring at 25° C., the solvent was removed in vacuo. The residue was dissolved in water, the pH adjusted to 2.5 and the solution heated on a steam bath under argon atmosphere for 8 hours. The cooled solution was adjusted to pH 6. The resulting precipitate, filtered, washed with water and dried in vacuo to afford the titled compound, mp 116°-117.5° C.

reactant | 2-bromo-4-methoxyacetophenone | 29.7 mmoles, 6.8 g | COC1=CC=C(C=C1)C(=O)CBr | C9H9BrO2
reactant | 2-iminopyrrolidine | 59.4 mmoles, 5 g | N=C1NCCC1 | C4H8N2
solvent | CHCl3 | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(4-Methoxyphenyl)-6,7-dihydro-[5H]-pyrrolo [1,2-a]imidazole | COC1=CC=C(C=C1)C=1N=C2N(C1)CCC2 | C13H14N2O
